US08877782B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinonitrile
To a solution of (5-methyl-3-phenyl-isoxazol-4-yl)-methanol (220 mg, 1.16 mmol) in THF (2 mL) was added sodium hydride (55% dispersion in mineral oil, 996 mg, 22.8 mmol). After stirring for 0.5 h at ambient temperature 6-chloronicotinonitrile (161 mg, 1.16 mmol) was added and the reaction mixture was stirred for 5 h at ambient temperature. It was diluted with ethyl acetate (10 mL), washed with aqueous citric acid (10%, 10 mL), water (10 mL) and aqueous sodium chloride (saturated, 10 mL). The combined aqueous layers were extracted with ethyl acetate (10 mL). After drying over sodium sulfate and concentration purification by chromatography (SiO2, heptane:ethyl acetate=90:10 to 60:40) afforded the title compound (307 mg, 91%) as a white solid. MS: m/e=292.1 [M+H]+.

reactant | (5-methyl-3-phenyl-isoxazol-4-yl)-methanol | 1.16 mmol, 220 mg | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | sodium hydride | 22.8 mmol, 996 mg | [H-].[Na+]
reactant | 6-chloronicotinonitrile | 1.16 mmol, 161 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinonitrile | 307 mg, 91% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C#N)C=C1 | C17H13N3O2
